US04101543
32.6 parts of 4-amino-cinnamic acid are heated under reflux for three hours in a mixture comprising 100 parts of absolute ethyl alcohol and 20 parts of 66°Be sulphuric acid. The product is poured on to 200 parts of water and 200 parts of ice, made alkaline to pH 8 by the addition of 38 parts of a 35° Be solution of sodium hydroxide, and the solid is filtered off, washed with water and recrystallised from 150 parts of ethyl alcohol and 150 parts of water. Ethyl-p-amino-cinnamate is thus obtained. Yield 78% M.p. 68°-69° C.

reactant | 4-amino-cinnamic acid | NC1=CC=C(C=CC(=O)O)C=C1 | C9H9NO2
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | Ethyl-p-amino-cinnamate | Yield 78% | C(C)OC(C=CC1=CC=C(C=C1)N)=O | C11H13NO2
